US04734429
1,5,6,7-Tetrahydro-1,3-dimethyl-4H-indazol-4-one is reacted with ethyl diazoacetate according to the procedure described in Example 3 to give 4,6,7,8-tetrahydro-1,3-dimethyl-5(1H)-cycloheptapyrazolone. This is reacted with N,N-dimethylformamide dimethyl acetal according to the procedure described in the first paragraph of Example 6 to give 4-(dimethylaminomethylene)-4,6,7,8-tetrahydro-1,3-dimethyl-5(1H)-cycloheptapyrazolone. The dimethylaminomethylene compound is then reacted with hydrazine according to the procedure described in Example 7 to give 4,5,6,7-tetrahydro-1,3-dimethyl-3H-cyclohepta[1,2-c:4,3-c']dipyrazole.

reactant | 1,5,6,7-Tetrahydro-1,3-dimethyl-4H-indazol-4-one | CN1N=C(C=2C(CCCC12)=O)C | C9H12N2O
reactant | ethyl diazoacetate | [N+](=[N-])=CC(=O)OCC | C4H6N2O2
product | 4,6,7,8-tetrahydro-1,3-dimethyl-5(1H)-cycloheptapyrazolone | CN1N=C(C2=C1CCCC(C2)=O)C | C10H14N2O
